* File: CMOS.pex.netlist.pex
* Created: Mon Feb  4 22:17:27 2013
* Program "Calibre xRC"
* Version "v2011.4_35.27"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_CMOS%IN 2 5 6 8 16
c15 16 0 0.00507764f
c16 8 0 0.0511629f
c17 6 0 0.0156417f
c18 5 0 0.0215175f
c19 2 0 0.0205041f
r20 13 19 11.6
r21 11 13 89.3538
r22 11 16 0.0267407
r23 7 8 55.38
r24 6 19 3.52009
r25 5 7 4.35808
r26 5 6 49.92
r27 1 19 1.05963
r28 1 2 20.28
.ends

.subckt PM_CMOS%GND! 6 9 11 13 17
c10 11 0 0.00423123f
c11 10 0 0.00437911f
c12 9 0 0.00626658f
c13 6 0 0.0113856f
r14 13 17 0.0146154
r15 11 13 0.131538
r16 9 11 0.0223169
r17 9 10 0.657692
r18 5 10 0.212317
r19 5 6 1.11077
.ends

.subckt PM_CMOS%VDD! 5 8 11 14 15
c10 11 0 0.00726954f
c11 8 0 0.0128234f
c12 5 0 0.0122341f
r13 14 15 0.0146154
r14 11 14 0.0584615
r15 7 8 1.22769
r16 6 11 0.0223169
r17 5 7 0.212317
r18 5 6 0.745385
.ends

.subckt PM_CMOS%OUT 4 7 8 10 12
c13 12 0 0.0274407f
c14 8 0 0.00167918f
c15 7 0 0.00808021f
c16 4 0 0.00591742f
r17 11 12 1.59308
r18 8 10 0.906154
r19 7 11 0.212317
r20 7 10 0.876923
r21 3 8 0.212317
r22 3 4 0.599231
.ends

