************************************************************************
* auCdl Netlist:
* 
* Library Name:  391_tutorial
* Top Cell Name: CMOS
* View Name:     schematic
* Netlisted on:  Feb  4 22:17:19 2013
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: 391_tutorial
* Cell Name:    CMOS
* View Name:    schematic
************************************************************************

.SUBCKT CMOS In Out
*.PININFO In:I Out:O
MM0 Out In vdd! vdd! PMOS_VTG W=600n L=50n m=1
MM1 Out In gnd! gnd! NMOS_VTG W=150.0n L=50n m=1
.ENDS

